US05167858
Metal sodium (0.3 g) was dissolved in anhydrous methanol (100 m(), followed by adding diethyl 2-(trans-4'-propylcyclohexyl)ethylmalonate (3.2 g) and 3,4-difluorobenzamidine hydrochloride (1.9 g) with stirring, reacting the mixture under reflux for 10 hours, thereafter cooling the reaction solution, pouring it in 6N HCl (100 ml) and ice (300 g), filtering off deposited yellow crystals, washing with water and drying crystals to obtain 4,6-dihydroxy-5-[2'-(trans-4"-propylcyclohexyl)ethyl]-2-(3,4-difluorophenyl)pyrimidine (3.5 g).

reactant | Metal | 0.3 g | N[C@@H](CCSC)C=O | C5H11NOS
reactant | diethyl 2-(trans-4'-propylcyclohexyl)ethylmalonate | 3.2 g | C(CC)[C@@H]1CC[C@H](CC1)CCC(C(=O)OCC)C(=O)OCC | C18H32O4
reactant | 3,4-difluorobenzamidine hydrochloride | 1.9 g | Cl.FC=1C=C(C(=N)N)C=CC1F
solvent | methanol | CO | CH4O
solvent | HCl | 6N, 100 ml | Cl | ClH
product | 4,6-dihydroxy-5-[2'-(trans-4"-propylcyclohexyl)ethyl]-2-(3,4-difluorophenyl)pyrimidine | 3.5 g | OC1=NC(=NC(=C1CC[C@@H]1CC[C@H](CC1)CCC)O)C1=CC(=C(C=C1)F)F | C21H26F2N2O2
